Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][nH:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]12.[NH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][NH:20][c:21]1[c:22]2[c:23]([n:24][c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]13)[CH2:31][CH2:32][CH2:33][CH2:34]2>>[C:1](=[O:2])([CH2:3][CH2:4][c:5]1[cH:6][nH:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]12)[NH:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][NH:20][c:21]1[c:22]2[c:23]([n:24][c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]13)[CH2:31][CH2:32][CH2:33][CH2:34]2,[NH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][NH:20][c:21]1[c:22]2[c:23]([n:24][c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]13)[CH2:31][CH2:32][CH2:33][CH2:34]2.[OH:101][C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][nH:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][CH2:4][c:5]1[cH:6][nH:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]12)[NH:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][NH:20][c:21]1[c:22]2[c:23]([n:24][c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]13)[CH2:31][CH2:32][CH2:33][CH2:34]2,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (14, 1), ([1, 2], 2), (303, 14.1), ([14.1, 14], 14), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)=[O:10].[N:11]#[C:12][c:13]1[cH:14][cH:15][c:16]([CH2:17][NH2:18])[c:19]([OH:20])[cH:21]1>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)(=[O:10])[NH:18][CH2:17][c:16]1[cH:15][cH:14][c:13]([C:12]#[N:11])[cH:21][c:19]1[OH:20],[OH:101][C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)=[O:10].[N:11]#[C:12][c:13]1[cH:14][cH:15][c:16]([CH2:17][NH2:18])[c:19]([OH:20])[cH:21]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)(=[O:10])[NH:18][CH2:17][c:16]1[cH:15][cH:14][c:13]([C:12]#[N:11])[cH:21][c:19]1[OH:20],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 10], 10), (303, 18.1), ([18.1, 18], 18), (10, [10, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][C:4]2([CH2:5][CH2:6]1)[CH2:7][CH:8]([n:9]1[n:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([O:16][c:17]4[cH:18][cH:19][cH:20][cH:21][cH:22]4)[cH:23][cH:24]3)[c:25]3[c:26]([NH2:27])[n:28][cH:29][n:30][c:31]13)[CH2:32]2>>[NH:1]1[CH2:2][CH2:3][C:4]2([CH2:5][CH2:6]1)[CH2:7][CH:8]([n:9]1[n:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([O:16][c:17]4[cH:18][cH:19][cH:20][cH:21][cH:22]4)[cH:23][cH:24]3)[c:25]3[c:26]([NH2:27])[n:28][cH:29][n:30][c:31]13)[CH2:32]2,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][C:4]2([CH2:5][CH2:6]1)[CH2:7][CH:8]([n:9]1[n:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([O:16][c:17]4[cH:18][cH:19][cH:20][cH:21][cH:22]4)[cH:23][cH:24]3)[c:25]3[c:26]([NH2:27])[n:28][cH:29][n:30][c:31]13)[CH2:32]2.[H+:301]>>[NH:1]1[CH2:2][CH2:3][C:4]2([CH2:5][CH2:6]1)[CH2:7][CH:8]([n:9]1[n:10][c:11](-[c:12]3[cH:13][cH:14][c:15]([O:16][c:17]4[cH:18][cH:19][cH:20][cH:21][cH:22]4)[cH:23][cH:24]3)[c:25]3[c:26]([NH2:27])[n:28][cH:29][n:30][c:31]13)[CH2:32]2,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][CH2:2][CH2:3][CH2:4][CH2:5][c:6]1[c:7]([C:8]([NH:9][c:10]2[cH:11][cH:12][c:13]([N:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[cH:19][cH:20]2)=[O:21])[c:22](-[c:23]2[c:24]([Cl:25])[cH:26][cH:27][cH:28][c:29]2[Cl:30])[n:31][o:32]1>>[OH:1][CH2:2][CH2:3][CH2:4][CH2:5][c:6]1[c:7]([C:8]([NH:9][c:10]2[cH:11][cH:12][c:13]([N:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[cH:19][cH:20]2)=[O:21])[c:22](-[c:23]2[c:24]([Cl:25])[cH:26][cH:27][cH:28][c:29]2[Cl:30])[n:31][o:32]1,CC(C)(C)[Si:101](C)(C)[O:1][CH2:2][CH2:3][CH2:4][CH2:5][c:6]1[c:7]([C:8]([NH:9][c:10]2[cH:11][cH:12][c:13]([N:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[cH:19][cH:20]2)=[O:21])[c:22](-[c:23]2[c:24]([Cl:25])[cH:26][cH:27][cH:28][c:29]2[Cl:30])[n:31][o:32]1.[F-:301]>>[OH:1][CH2:2][CH2:3][CH2:4][CH2:5][c:6]1[c:7]([C:8]([NH:9][c:10]2[cH:11][cH:12][c:13]([N:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[cH:19][cH:20]2)=[O:21])[c:22](-[c:23]2[c:24]([Cl:25])[cH:26][cH:27][cH:28][c:29]2[Cl:30])[n:31][o:32]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
